*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X6S(-55to105[deg])/2.20e+00[uF]/10[V]
* Murata P/N :GRM155C81A225KE44
* Property : C = 2.20e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155C81A225KE44 Port1 Port2
C01 Port1 N01 1.71e-06
R01 Port1 N01 2.27e+07
L02 N01 N02 1.59e-10
R03 N02 N03 6.70e-03
C04 N03 N04 6.52e-05
R04 N03 N04 1.42e+02
C05 N04 N05 7.69e-05
R05 N04 N05 1.23e+01
C06 N05 N06 6.78e-05
R06 N05 N06 2.13e+00
C07 N06 N07 6.23e-05
R07 N06 N07 4.38e-01
C08 N07 N08 5.48e-05
R08 N07 N08 6.94e-02
C09 N08 N09 3.35e-05
R09 N08 N09 1.44e-02
L10 N09 N10 2.22e-11
R10 N09 N10 1.75e-01
L11 N10 N11 2.62e-11
R11 N10 N11 4.42e-02
L12 N11 N12 1.57e-10
R12 N11 N12 2.65e-02
C13 N12 N13 8.58e-06
L13 N12 N13 2.54e-11
R13 N12 N13 3.11e-03
C14 N13 N14 2.60e-06
L14 N13 N14 4.06e-11
R14 N13 N14 6.40e-03
C15 N14 Port2 1.54e-11
L15 N14 Port2 2.06e-11
R15 N14 Port2 7.48e+00
.ENDS GRM155C81A225KE44
